US05089025
1 g 2-methyl-6-nitroquinoxaline synthesized by the method described in Coll. Czech. Chem. Comm. 30, 3106 (1965) from 4-nitro-1,2-diaminobenzene by reaction with methyl glyoxal was dissolved in 30 ml acetic acid. Sodium borohydride was added to this solution in small portions at +5° C. until the starting compound could no longer be detected in the solution by thin-layer chromatography. The solution was then diluted with 200 ml water and extracted twice with chloroform. The organic phase was washed with water and dried. After concentration to dryness, the residue was dissolved in acetone and precipitated with hydrochloric acid. The yield amounted to 0.6 g (58% of the theoretical). The melting point of the 1,2,3,4-tetrahydro-2-methyl-6-nitroquinoxaline thus obtained was 178° C.

reactant | 2-methyl-6-nitroquinoxaline | 1 g | CC1=NC2=CC=C(C=C2N=C1)[N+](=O)[O-] | C9H7N3O2
reactant | 4-nitro-1,2-diaminobenzene | [N+](=O)([O-])C1=CC(=C(C=C1)N)N | C6H7N3O2
reactant | methyl glyoxal | CC(=O)C=O | C3H4O2
reactant | Sodium borohydride | [BH4-].[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | 200 ml | O | H2O
product | 1,2,3,4-tetrahydro-2-methyl-6-nitroquinoxaline | CC1NC2=CC=C(C=C2NC1)[N+](=O)[O-] | C9H11N3O2
